US08039460B2
Step B: 4-{[(Benzyloxy)carbonyl]amino}-1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid
Palladium (10% on carbon; 210 mg) was added to a solution of tert-butyl 4-(aminocarbonyl)-4-{[(benzyloxy)carbonyl]amino}piperidine-1-carboxylate (0.43 g, 1.14 mmol) in ethanol (20 mL). The reaction vessel was evacuated and back-filled with nitrogen (3×), then back-filled with hydrogen (1 atm). After 18 h, the mixture was filtered and concentrated to give the title compound (290 mg).

reactant | tert-butyl 4-(aminocarbonyl)-4-{[(benzyloxy)carbonyl]amino}piperidine-1-carboxylate | 1.14 mmol, 0.43 g | NC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1 | C19H27N3O5
reactant | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Palladium | 210 mg | [Pd] | Pd
product | 4-{[(Benzyloxy)carbonyl]amino}-1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid | 290 mg | C(C1=CC=CC=C1)OC(=O)NC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)O | C19H26N2O6
